US09284323B2
At 0° C., a suspension of 60% w/w NaH/mineral oil (7.13 g, 0.176 mol) in THF (250 mL) was treated dropwise with a solution of ethyl 2-(diethoxyphosphoryl)acetate (39.5 g, 0.176 mol) in THF (72 mL) over a 30 min period. The reaction was stirred for another 30 minutes, and a solution of 1-(3-chlorophenyl)propan-2-one (19.7 g, 0.117 mol) in THF (108 mL) was added dropwise over 1 h (reaction was kept at 0° C. during addition). The reaction was allowed to warm to 23° C. overnight and quenched with saturated aqueous NH4Cl (250 mL). After 2 h, the mixture was diluted with water (250 mL) and hexane (100 mL). The organic phase was collected. The aqueous layer was extracted with EtOAc (2×150 mL). Combined organic phases were dried (MgSO4), filtered, and concentrated, giving crude ethyl 4-(3-chlorophenyl)-3-methylbut-2-enoate as a mixture of E and Z isomers. The residue was carried onward without further purification. (˜25 grams). The 1H NMR reported below is from a crude mixture containing both the E and Z isomer. 1H NMR (400 MHz, CDCl3) δ 7.24-7.22 (m, 2H), 7.16 (s, 1H), 7.06-7.04 (m, 1H); 5.67 (s, 1H); 4.18-4.13 (dd, 2H); 3.40 (s, 2H), 2.11 (s, 3H), 1.30-1.26 (t, 3H).

reactant | NaH | [H-].[Na+]
reactant | ethyl 2-(diethoxyphosphoryl)acetate | 0.176 mol, 39.5 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 1-(3-chlorophenyl)propan-2-one | 0.117 mol, 19.7 g | ClC=1C=C(C=CC1)CC(C)=O | C9H9ClO
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 72 mL | C1CCOC1 | C4H8O
solvent | THF | 108 mL | C1CCOC1 | C4H8O
product | ethyl 4-(3-chlorophenyl)-3-methylbut-2-enoate | ClC=1C=C(C=CC1)CC(=CC(=O)OCC)C | C13H15ClO2
